// Generated for: spectre
// Generated on: Nov  3 16:30:51 2021
// Design library name: sram_6t
// Design cell name: sram_cell_8t_ckt_layout_simulation_noise_margin
// Design view name: schematic
simulator lang=spectre
global 0
parameters x=0
include "/home/ecegrid/a/559mg23/vlsi_assignment/sram_6t/tsmc18dN.m"
include "/home/ecegrid/a/559mg23/vlsi_assignment/sram_6t/tsmc18dP.m"

// Library name: sram_6t
// Cell name: sram_cell_8t_ckt_layout
// View name: schematic
subckt sram_cell_8t_ckt_layout GND Q QB RBL RWL VDD WBL WBLB WWL
    N6 (RBL RWL net1 GND) tsmc18dN w=270.0n l=180.0n as=1.215e-13 \
        ad=1.215e-13 ps=1.44u pd=1.44u m=1 region=sat
    N5 (net1 Q GND GND) tsmc18dN w=270.0n l=180.0n as=1.215e-13 \
        ad=1.215e-13 ps=1.44u pd=1.44u m=1 region=sat
    N4 (WBLB WWL QB GND) tsmc18dN w=540.0n l=180.0n as=2.43e-13 \
        ad=2.43e-13 ps=1.98u pd=1.98u m=1 region=sat
    N3 (Q WWL WBL GND) tsmc18dN w=540.0n l=180.0n as=2.43e-13 ad=2.43e-13 \
        ps=1.98u pd=1.98u m=1 region=sat
    N2 (QB Q GND GND) tsmc18dN w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
    N1 (GND QB Q GND) tsmc18dN w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
    P1 (Q QB VDD VDD) tsmc18dP w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
    P0 (QB Q VDD VDD) tsmc18dP w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
ends sram_cell_8t_ckt_layout
// End of subcircuit definition.

// Library name: sram_6t
// Cell name: sram_cell_8t_ckt_layout_simulation_noise_margin
// View name: schematic
C2 (WBL GND) capacitor c=10p m=1
C0 (WBLB GND) capacitor c=10p m=1
C1 (RBL GND) capacitor c=10p m=1
C4 (RWL GND) capacitor c=10p m=1
C3 (WWL GND) capacitor c=10p m=1
I0 (GND Q QB RBL RWL VDD WBL WBLB WWL) sram_cell_8t_ckt_layout
V0 (Q GND) vsource type=dc dc=x
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=x start=0 stop=1.8 oppoint=rawfile maxiters=150 maxsteps=10000 \
    annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
